US06403561B1
Preparation of Ethyl 3,3-dimethylindoline-2(R/S)-carboxylate
Ethyl 3,3-dimethyl-3H-indole-2-carboxylate (4.00 g, 18.4 mmol) was dissolved in ethanol (20 ml) and activated palladium-on-charcoal (0.5 g) was then added to this solution. This mixture was hydrogenated for five hours. After filtration in order to remove the catalyst, the filtrate was dried (MgSO4) and the solvent removed in order to give a brown oil.

reactant | Ethyl 3,3-dimethyl-3H-indole-2-carboxylate | 18.4 mmol, 4.00 g | CC1(C(=NC2=CC=CC=C12)C(=O)OCC)C | C13H15NO2
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 0.5 g | [Pd] | Pd
product | Ethyl 3,3-dimethylindoline-2(R/S)-carboxylate | CC1(C(NC2=CC=CC=C12)C(=O)OCC)C | C13H17NO2
